US04462923
32.85 g of ethyl trans-4-hydroxy-2-(4-propylcyclohexyl)-5-pyrimidinecarboxylate are boiled under reflux for 3.5 hours with 210 ml of phosphorus oxychloride. After cooling, the mixture is concentrated in vacuo and evaporated twice further with 100 ml of toluene each time. The residue is chromatographed with methylene chloride on a column of 300 g of silica gel. There are obtained 31.3 g of crude ethyl trans-4-chloro-2-(4-propylcyclohexyl)-5-pyrimidinecarboxylate as a yellow oil.

reactant | ethyl trans-4-hydroxy-2-(4-propylcyclohexyl)-5-pyrimidinecarboxylate | 32.85 g | OC1=NC(=NC=C1C(=O)OCC)[C@@H]1CC[C@H](CC1)CCC | C16H24N2O3
reactant | phosphorus oxychloride | 210 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl trans-4-chloro-2-(4-propylcyclohexyl)-5-pyrimidinecarboxylate | 31.3 g | ClC1=NC(=NC=C1C(=O)OCC)[C@@H]1CC[C@H](CC1)CCC | C16H23ClN2O2
